US08048881B2
311.3. 4-((S)-4-tert-butoxycarbonyl-2-{[6-(1,4-dioxa-spiro[4.5]dec-7-en-8-yl)-2-phenyl-pyrimidine-4-carbonyl]-amino}-butyryl)-piperazine-1-carboxylic acid ethyl ester
Intermediate 311.2 (1 mmol), 4-{(S)-4-tert-butoxycarbonyl-2-[(6-chloro-2-phenyl-pyrimidine-4-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester (1 mmol, 560 mg), tris-(dibenzylidenaceton)-dipalladium (0.025 mmol, 23 mg) and triphenylphosphine (0.2 mmol, 55 mg) were dissolved in toluene (1.2 ml), EtOH (0.3 ml) and a 1M solution of sodium carbonate (0.3 ml). The mixture was refluxed for 48 h under argon. After cooling down, water was added and the mixture was extracted with chloroform. The org. layers were dried (Na2SO4) and evaporated off. Column chromatography (EA/Hept 1/2 to 1/0) afforded 155 mg of the desired compound.

reactant | 4-{(S)-4-tert-butoxycarbonyl-2-[(6-chloro-2-phenyl-pyrimidine-4-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester | 1 mmol, 560 mg | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NC(=NC(=C1)Cl)C1=CC=CC=C1)=O | C27H34ClN5O6
reactant | triphenylphosphine | 0.2 mmol, 55 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | EtOH | 0.3 ml | CCO | C2H6O
reactant | sodium carbonate | 0.3 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 1.2 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 4-((S)-4-tert-butoxycarbonyl-2-{[6-(1,4-dioxa-spiro[4.5]dec-7-en-8-yl)-2-phenyl-pyrimidine-4-carbonyl]-amino}-butyryl)-piperazine-1-carboxylic acid ethyl ester | 155 mg | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NC(=NC(=C1)C1=CCC2(OCCO2)CC1)C1=CC=CC=C1)=O | C35H45N5O8
